US07659263B2
To a solution of methyl (E)-5-[2-(2,4-bisbenzyloxyphenyl)vinyl]-4-nitrothiophene-2-carboxylate (3.08 g, 6.13 mmol) in mesitylene (15 ml) was added triethyl phosphite (3.15 ml, 18.4 mmol), and the mixture was stirred at 160° C. for 43 hr. The reaction mixture was allowed to cool to room temperature, and ethyl acetate (50 ml) was added. The organic layer was washed successively with 1N hydrochloric acid (30 ml), water (30 ml×2) and saturated brine (20 ml), and dried over sodium sulfate. After filtration and concentration, isopropyl alcohol (20 ml) was added to the obtained residue and the precipitated solid was collected by filtration. The solid was washed with isopropyl alcohol (10 ml×3) to give methyl 5-(2,4-bisbenzyloxyphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate (1.36 g, yield 47%).

reactant | methyl (E)-5-[2-(2,4-bisbenzyloxyphenyl)vinyl]-4-nitrothiophene-2-carboxylate | 6.13 mmol, 3.08 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)/C=C/C1=C(C=C(S1)C(=O)OC)[N+](=O)[O-] | C28H23NO6S
reactant | triethyl phosphite | 18.4 mmol, 3.15 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | mesitylene | 15 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | methyl 5-(2,4-bisbenzyloxyphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 1.36 g, yield 47% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=CC2=C(N1)C=C(S2)C(=O)OC | C28H23NO4S
